// Generated for: spectre
// Generated on: Oct 10 22:26:51 2019
// Design library name: Lab1
// Design cell name: nmos
// Design view name: schematic
simulator lang=spectre
global 0
include "/CMC/tools/cadence/IC5141USR6_lnx86/tools/dfII/samples/artist/ahdlLib/quantity.spectre"
parameters v2=1 v1=1.8
include "$CMOSP18_DIR/models/spectre/rf018.scs" section=tt
include "/home/student1/gcascian/ELE734/saveop.scs"

// Library name: Lab1
// Cell name: nmos
// View name: schematic
V0 (net5 0) vsource dc=v1 type=dc
V2 (net8 0) vsource dc=0 type=dc
V1 (net3 0) vsource dc= v2 type=dc
mosfet (net5 net3 0 net8) nch w=1u l=180.00n as=0.48u*(1u) ad=0.48u*(1u) \
        ps=0.96u+2*(1u) pd=0.96u+2*(1u) nrd=0.27u/(1u) nrs=0.27u/(1u) m=1 \
        region=triode
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V2 param=dc start=-1.8 stop=1.8 step=.1 oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save mosfetd 
saveOptions options save=allpub
