// Generated for: spectre
// Generated on: Oct 11 00:38:48 2019
// Design library name: Lab1
// Design cell name: nmos_tb
// Design view name: config
simulator lang=spectre
global 0
include "/CMC/tools/cadence/IC5141USR6_lnx86/tools/dfII/samples/artist/ahdlLib/quantity.spectre"
parameters v2=1.8 v1=0.6
include "$CMOSP18_DIR/models/spectre/rf018.scs" section=tt
include "/home/student1/gcascian/ELE734/saveop.scs"

// Library name: Lab1
// Cell name: nmos
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
subckt nmos B D G S
    mosfet (D G S B) nch w=1u l=180.00n as=0.48u*(1u) ad=0.48u*(1u) \
        ps=0.96u+2*(1u) pd=0.96u+2*(1u) nrd=0.27u/(1u) nrs=0.27u/(1u) m=1 \
        region=triode
ends nmos
// End of subcircuit definition.

// Library name: Lab1
// Cell name: nmos
// View name: extracted
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
subckt nmos_extracted B D G S
    \+2 (B G) capacitor c=2.02483e-16 m=1
    \+1 (D S) capacitor c=2.06715e-16 m=1
    \+0 (S G D B) nch w=1e-06 l=1.8e-07 as=5.9e-13 ad=5.3e-13 ps=2.18e-06 \
        pd=2.06e-06 nrd=0.27u/(1e-06) nrs=0.27u/(1e-06) m=1 region=triode
ends nmos_extracted
// End of subcircuit definition.

// Library name: Lab1
// Cell name: nmos_tb
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
V0 (net019 0) vsource dc= v1 type=dc
V1 (net017 0) vsource dc= v2 type=dc
V2 (net015 0) vsource dc=0 type=dc
v1 (net5 0) vsource dc= v1 type=dc
v2 (net3 0) vsource dc= v2 type=dc
v3 (net1 0) vsource dc=0 type=dc
I5 (net015 net017 net019 0) nmos
I1 (net1 net3 net5 0) nmos_extracted
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=v2 start=0 stop=1.8 step=.1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
